US06897224B2
1-(Quinolin-8-ylamino)-4-(5-fluoro-2-hydroxyphenyl)-4-methyl-2-(trifluoromethyl)pentan-2-ol
200 mg (0.46 mmol) of 1-(quinolin-8-ylamino)-4-(5-fluoro-2-methoxyphenyl)-4-methyl-2-(trifluoromethyl)pentan-2-ol in 20 ml of CH2Cl2 is mixed at 0° C. with 9 ml of 1 M boron tribromide-CH2Cl2 solution. After 20 hours at room temperature, the batch is poured into saturated NaHCO3 solution, stirred for 20 minutes and extracted with CH2Cl2. The combined organic extracts are washed with water, dried (Na2SO4) and concentrated by evaporation in a vacuum. Chromatography with hexane-ethyl acetate (0-25%) on silica gel yields 190 mg of the product.

reactant | 1-(quinolin-8-ylamino)-4-(5-fluoro-2-methoxyphenyl)-4-methyl-2-(trifluoromethyl)pentan-2-ol | 0.46 mmol, 200 mg | N1=CC=CC2=CC=CC(=C12)NCC(CC(C)(C)C1=C(C=CC(=C1)F)OC)(O)C(F)(F)F | C23H24F4N2O2
reactant | boron tribromide CH2Cl2 | 1 M, 9 ml | B(Br)(Br)Br.C(Cl)Cl
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | CH2Cl2 | 20 ml | C(Cl)Cl | CH2Cl2
product | 1-(Quinolin-8-ylamino)-4-(5-fluoro-2-hydroxyphenyl)-4-methyl-2-(trifluoromethyl)pentan-2-ol | 190 mg | N1=CC=CC2=CC=CC(=C12)NCC(CC(C)(C)C1=C(C=CC(=C1)F)O)(O)C(F)(F)F | C22H22F4N2O2
